US08193199B2
Prepared according to Procedure H using (8-methyl-2-(2-(trifluoromethyl)-phenyl)quinolin-3-yl)methanamine (0.1 g, 0.316 mmol, 1 eq) in EtOH (2 mL) was treated with iPr2NEt (0.07 mL, 0.4 mmol, 1.2 eq) followed by 6-chloropurine (0.049 g, 0.317 mmol, 1 eq). After purification, N-((8-methyl-2-(2-(trifluoro-methyl)phenyl)quinolin-3-yl)methyl)-9H-purin-6-amine as yellow syrup. The yellow syrup was triturated with CH2Cl2 and filtered to provide N-((8-methyl-2-(2-(trifluoromethyl)phenyl)quinolin-3-yl)methyl)-9H-purin-6-amine [PI3Kδ IC50=91 nM] as yellow syrup. 1H NMR (DMSO-d6) δ ppm 12.93 (1H, s), 7.98-8.31 (4H, m), 7.90 (1H, d, J=7.8 Hz), 7.74-7.82 (2H, m), 7.69 (2H, t, J=6.5 Hz), 7.59 (1H, d, J=7.0 Hz), 7.42-7.52 (1H, m), 4.42-4.77 (2H, m), 2.62 (3H, s). Mass Spectrum (ESI) m/e=435.1 (M+1).

reactant | (8-methyl-2-(2-(trifluoromethyl)-phenyl)quinolin-3-yl)methanamine | 0.316 mmol, 0.1 g, 1 eq | CC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)C(F)(F)F)CN | C18H15F3N2
reactant | iPr2NEt | 0.4 mmol, 0.07 mL, 1.2 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-chloropurine | 0.317 mmol, 0.049 g, 1 eq | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
solvent | EtOH | 2 mL | CCO | C2H6O
product | N-((8-methyl-2-(2-(trifluoromethyl)phenyl)quinolin-3-yl)methyl)-9H-purin-6-amine | CC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)C(F)(F)F)CNC1=C2N=CNC2=NC=N1 | C23H17F3N6
